US06448281B1
To a solution of N-Boc-3-iodotyrosine (0.380 g, 0.93 mmol) in pyridine (1 mL) were added acetic anhydride (105 μL, 1.1 mmol) and DMAP (10 mg, cat). The solution was stirred 1.5 h then diluted in 5% citric acid (20 mL), and the product extracted with EtOAc. The organic solution was evaporated and the residue dissolved in MeCN (4 mL). To the stirred cold (ice bath) solution were added EDC (0. 196 g, 1.0 mmol) and HOBt (0.135 g, 1.0 mmol). After stirring for 1 h, a 2 N solution of ammonia in iPrOH (3 mL) was added. The suspension was stirred 1 h at 5° C., the solid was filtered, the filtrate evaporated and the residue purified by flash chromatography (gradient 3-5% MeOH/chloroform) to yield N-Boc-O-acety-3-iodotyrosine amide.

reactant | N-Boc-3-iodotyrosine | 0.93 mmol, 0.380 g | C(=O)(OC(C)(C)C)N[C@@H](CC1=CC(=C(C=C1)O)I)C(=O)O | C14H18INO5
reactant | acetic anhydride | 1.1 mmol, 105 μL | C(C)(=O)OC(C)=O | C4H6O3
reactant | EDC | 1.0 mmol, 196 g
reactant | HOBt | 1.0 mmol, 0.135 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | ammonia | N | H3N
reactant | citric acid | 20 mL | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
solvent | pyridine | 1 mL | N1=CC=CC=C1 | C5H5N
catalyst | DMAP | 10 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | iPrOH | 3 mL | CC(C)O | C3H8O
product | N-Boc-O-acety-3-iodotyrosine amide | C(=O)(OC(C)(C)C)NC([C@@H](N)CC1=CC(=C(C=C1)OC(C)=O)I)=O | C16H21IN2O5
